US08445509B2
Production of 5-methyl-6-phenylpyridine-2-carbonitrile 1-oxide
A solution of 6-(4-fluorophenyl)-5-methylpyridine-2-carbonitrile (750 mg, 3.86 mmol) and m-chloroperbenzoic acid (purity 69%, 2.4 g, 96.5 mmol) in tetrahydrofuran (8 mL) was stirred with heating at 50° C. for 3 days. Saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The combined organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/3→1/2) to give the title compound (74.8 mg, 9%) as white crystals.

reactant | 6-(4-fluorophenyl)-5-methylpyridine-2-carbonitrile | 3.86 mmol, 750 mg | FC1=CC=C(C=C1)C1=C(C=CC(=N1)C#N)C | C13H9FN2
reactant | m-chloroperbenzoic acid | 96.5 mmol, 2.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 5-methyl-6-phenylpyridine-2-carbonitrile 1-oxide | 74.8 mg, 9% | CC1=CC=C([N+](=C1C1=CC=CC=C1)[O-])C#N | C13H10N2O
